US04640918
2.34 g of 4-(p-aminophenyl)-tetrahydro-4H-1,4-thiazine are dissolved in 12 ml of 35 percent sulfuric acid, 12 g of ice are added thereto, a cold solution of 1.05 g of sodium nitrite in 12 ml of water is then slowly introduced under the surface and the mixture is stirred for 5 minutes at about 0°. Thereafter, there are added 60 mg of urea, a solution of 144 g of copper(II) nitrate trihydrate in 420 ml of water and finally while stirring vigorously 1.59 g of copper(I) oxide. The mixture is stirred for 5 minutes, adjusted to about pH 6 with sodium hydroxide solution and extracted three times with 600 ml of dichloromethane each time and once with 600 ml of dichloromethane/ethanol (4:1). The organic phases are washed twice with 300 ml of water each time, dried over sodium sulfate and evaporated. The crude product is chromatographed on 400 g of silica gel with dichloromethane which contains 5% acetone. The material obtained is recrystallized from dichloromethane/methanol/ether, whereby there is obtained p-(tetrahydro-4H-1,4-thiazin-4-yl)phenol of melting point 155°-157°.

reactant | 4-(p-aminophenyl)-tetrahydro-4H-1,4-thiazine | 2.34 g | NC1=CC=C(C=C1)N1CCSCC1 | C10H14N2S
reactant | sodium nitrite | 1.05 g | N(=O)[O-].[Na+]
reactant | urea | 60 mg | NC(=O)N | CH4N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 12 ml | O | H2O
solvent | water | 420 ml | O | H2O
catalyst | copper(II) nitrate trihydrate | 144 g | O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
catalyst | copper(I) oxide | 1.59 g | [Cu-]=O
product | p-(tetrahydro-4H-1,4-thiazin-4-yl)phenol | S1CCN(CC1)C1=CC=C(C=C1)O | C10H13NOS
